US05783593
4-Phenoxystyrene
To a suspension of methyltriphenylphosphonium bromide (7.85 g, 22 mmol) in THF (10 mL) was added potassium tert-butoxide (1.0M solution in THF, 22 mL). After 30 minutes, 4-phenoxybenzaldehyde (3.96 g, 20 mmol) was added to the above mixture. The reaction was diluted with equal volume of hexane after 20 minutes and filtered through silica gel (80 g). The residue was rinsed and washed with 20% ether in hexane. Concentration of the filtrate in vacuo gave the crude product as an off white solid which was used without further purification.

reactant | potassium tert-butoxide | 1.0M, 22 mL | CC(C)([O-])C.[K+]
reactant | 4-phenoxybenzaldehyde | 20 mmol, 3.96 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
catalyst | methyltriphenylphosphonium bromide | 22 mmol, 7.85 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-Phenoxystyrene | O(C1=CC=CC=C1)C1=CC=C(C=C)C=C1 | C14H12O
